US06153768
Synthesis of 4-hydroxy-4-[4-(5-iodopentyloxy)phenyl]-7-methoxymethyloxy-3-[4-(methoxymethyloxy)phenyl]-2,3-dihydro-4H-benzopyran
4-[4-(5-Chloropentyloxy)phenyl]-4-hydroxy-7-methoxymethyloxy-3-[4-(methoxymethyloxy)phenyl]-2,3-dihydro-4H-benzopyran (167 mg, 0.3 mmol) and sodium iodide (139 mg, 0.9 mmol) were dissolved in methyl ethyl ketone (5 ml) and then refluxed for 12 hours. The reaction solution was cooled to room temperature and, after adding water, extracted with ethyl acetate. The organic layer was dried over anhydrous magnesium sulfate, filtered and then concentrated under reduced pressure to remove the organic solvent. The concentrate was subjected to column chromatography (n-hexane:ethyl acetate=4:1) to obtain 142 mg (yield: 75%) of the title compound as a colorless oil.

reactant | 4-[4-(5-Chloropentyloxy)phenyl]-4-hydroxy-7-methoxymethyloxy-3-[4-(methoxymethyloxy)phenyl]-2,3-dihydro-4H-benzopyran | 0.3 mmol, 167 mg | ClCCCCCOC1=CC=C(C=C1)C1(C(COC2=C1C=CC(=C2)OCOC)C2=CC=C(C=C2)OCOC)O | C30H35ClO7
reactant | sodium iodide | 0.9 mmol, 139 mg | [I-].[Na+]
reactant | water | O | H2O
solvent | methyl ethyl ketone | 5 ml | C(C)C(=O)C | C4H8O
product | 4-hydroxy-4-[4-(5-iodopentyloxy)phenyl]-7-methoxymethyloxy-3-[4-(methoxymethyloxy)phenyl]-2,3-dihydro-4H-benzopyran | 142 mg, yield: 75% | OC1(C(COC2=C1C=CC(=C2)OCOC)C2=CC=C(C=C2)OCOC)C2=CC=C(C=C2)OCCCCCI | C30H35IO7
